US06080754
1-Ethyl-2-(4-methoxyphenyl)-4-[4-(2-piperidinoethoxy)phenyl]pyrrolo[2,1,5-cd]indolizine (190 mg, 0.4 mmol) and pyridinium hydrochloride (462 mg, 4.0 mmol) was melted together at 170° C., and stirring was continued for 24 hours at 170° C. The mixture was cooled to room temperature and dissolved in 10 ml of methanol and 50 ml of dichloromethane. 100 ml of water and solid sodium hydrogen carbonate was added until pH=8. The aqueous layer was extracted with 10% of methanol in dichloromethane (2×50 ml), and the combined organic layers were washed with brine, dried oversodium sulfate and evaporated. The crude product was purified by column chromatography over silica gel 60, using 10% of methanol in dichloromethane as the eluent. The crude product was recrystallized from methanol, dichloromethane and petroleum ether to afford 55 mg (29%) of 1-ethyl-2-(4-hydroxyphenyl)-4-[4-(2-piperidinoethoxy)phenyl]pyrrolo[2,1,5-cd]indolizine. MS(SP): m/z 464 (M+). 1H--NMR (DMSO-d6, 200 MHz) δ: 1.31-1.58 (m,9 H); 2.39-2.49 (m, 4 H); 2.68 (t, 2 H); 3.22 (q, 2 H); 4.12 (t, 2 H); 7.00 (d, 2 H); 7.07 (d, 2 H); 7.66-7.79 (m, 3 H); 7.83-7.98 (m, 3 H); 8.11 (d, 1 H); 8.29 (d, 1 H); 9.83 (br s, 1 H).

reactant | 1-Ethyl-2-(4-methoxyphenyl)-4-[4-(2-piperidinoethoxy)phenyl]pyrrolo[2,1,5-cd]indolizine | 0.4 mmol, 190 mg | C(C)C1=C(C=2N3C(C=CC=C13)=C(C2)C2=CC=C(C=C2)OCCN2CCCCC2)C2=CC=C(C=C2)OC | C32H34N2O2
reactant | pyridinium hydrochloride | 4.0 mmol, 462 mg | Cl.[NH+]1=CC=CC=C1
reactant | water | 100 ml | O | H2O
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | methanol | 10 ml | CO | CH4O
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 1-ethyl-2-(4-hydroxyphenyl)-4-[4-(2-piperidinoethoxy)phenyl]pyrrolo[2,1,5-cd]indolizine | 55 mg, 29% | C(C)C1=C(C=2N3C(C=CC=C13)=C(C2)C2=CC=C(C=C2)OCCN2CCCCC2)C2=CC=C(C=C2)O | C31H32N2O2
